US07001897B2
Subsequently, to a solution of 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine (2.00 g, 4.29 mmol) (obtained as described in Reference Example 2(1)) in benzene (100 ml) was added a solution of 0.67M (1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutylamine-trimethylaluminium in benzene (12.9 ml) at room temperature under an atmosphere of nitrogen. The mixture was heated under reflux overnight. After checking the completion of the reaction, 10% aqueous acetic acid solution (100 ml) and ethyl acetate (200 ml) were added to the reaction mixture in an ice bath, and the resulting mixture was stirred in the ice bath for 0.5 hours. After adding ethyl acetate thereto, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (6:1→4:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}azetidine (2.14 g, yield 64%) as a pale brown solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine | 4.29 mmol, 2.00 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)OCC | C25H30N2O3SSi
reactant | (1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutylamine trimethylaluminium | 0.67M | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](CC(C)C)N.C[Al](C)C
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 12.9 ml | C1=CC=CC=C1 | C6H6
product | 3-t-butyldiphenylsilyloxy-1-{4-[(1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 2.14 g, yield 64% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N[C@@H](CC(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C45H57N3O3SSi2
